US04581452
A mixture of dichlorobis(triphenylphosphine) palladium (5.5 g; 7.85×10-3 mole), 2-bromo-3,3,3-trifluoropropene (139 g; 0.794 mole), water (20 g; 1.11 moles) and triethylamine (109 g; 1.08 moles) in tetrahydrofuran (500 ml) was put in a one-liter stainless steel autoclave, and heated at 75° to 80° C. with stirring for 2 hours under a carbon monoxide pressure of 35 atmospheres. 2N-Hydrochloric acid was added to the reaction mixture, and the mixture was extracted with diethyl ether and then dried over anhydrous sodium sulfate. Distillation of the extract under reduced pressure gave 74.1 g (yield: 67%) of α-trifluoromethylacrylic acid having a boiling point of 90°/28 mmHg. m.p.: 52.5°-53.0° C.

reactant | 2-bromo-3,3,3-trifluoropropene | 0.794 mole, 139 g | BrC(=C)C(F)(F)F | C3H2BrF3
reactant | water | 1.11 moles, 20 g | O | H2O
reactant | triethylamine | 1.08 moles, 109 g | C(C)N(CC)CC | C6H15N
reactant | Hydrochloric acid | Cl | ClH
reactant | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | α-trifluoromethylacrylic acid | 74.1 g, yield: 67% | FC(C(C(=O)O)=C)(F)F | C4H3F3O2
